US05506256
C) (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-{[(S)-4-methoxyphenylsulfinyl]acetyl}pyrrolidine
By the same procedure as in Example 15-D) using N-benzylaminocarbonyl-L-prolyl-L-proline benzyl ester (2.00 g) and (S)-(-)-4-methoxyphenyl methyl sulfoxide (780 mg) as obtained in Example 15-C), there was obtained 629 mg of the title compound as colorless needles (See Table 7).

reactant | N-benzylaminocarbonyl-L-prolyl-L-proline benzyl ester | 2.00 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1)=O)=O | C25H29N3O4
reactant | (S)-(-)-4-methoxyphenyl methyl sulfoxide | 780 mg | C[S@](=O)C1=CC=C(C=C1)OC | C8H10O2S
product | (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-{[(S)-4-methoxyphenylsulfinyl]acetyl}pyrrolidine | 629 mg | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(C[S@](=O)C2=CC=C(C=C2)OC)=O)CCC1 | C26H31N3O5S
